US06294558B1
2-Fluoro-4-(1,3-thiazol-4-yl)phenyl trifluoromethanesulfonate (step 3)
To a stirred solution of 2-fluoro-4-(1,3-thiazol-4-yl)phenol (2.11 g, 10.81 mmol), triethylamine (1.31 g, 12.97 mmol) in CH2Cl2 (65 ml) was added trifluoromethanesulfonic anhydride (3.35 g, 11.89 mmol) at 0° C., and the mixture was stirred for 1 hour. The mixture was diluted with water, and the whole was extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:4) to give title compound (3.47 g, 98% yield).

reactant | 2-fluoro-4-(1,3-thiazol-4-yl)phenol | 10.81 mmol, 2.11 g | FC1=C(C=CC(=C1)C=1N=CSC1)O | C9H6FNOS
reactant | triethylamine | 12.97 mmol, 1.31 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 11.89 mmol, 3.35 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 65 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Fluoro-4-(1,3-thiazol-4-yl)phenyl trifluoromethanesulfonate | 3.47 g, 98% yield | FC(S(=O)(=O)OC1=C(C=C(C=C1)C=1N=CSC1)F)(F)F | C10H5F4NO3S2
